US07148229B2
A solution of 5,6-diamino-1-butyl-3-(2-fluoro-benzyl)-1H-pyrimidine-2,4-dione (30.6 mg, 0.1 mmol) and [4-(pyridin-2-ylsulfamoyl)-phenyl]-acetic acid (29.2 mg, 0.1 mmol) in dry N,N-dimethylformamide (1 mL) was treated with N,N-diisopropylethylamine (61 mL, 0.35 mmol) and O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate (37.9 mg, 0.1 mmol). The mixture was stirred at 25° C. for 16 h. The reaction mixture was diluted with water and acidified to pH=5.0 with a 0.01M aqueous hydrochloric acid solution. The reaction mixture was extracted with ethyl acetate. The combined organic extracts were washed with water and a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford N-[1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-[4-(pyridin-2-ylsulfamoyl)-phenyl]-acetamide (86%); 1H NMR(CDCl3, 300 MHz) δH 8.20–6.65 (m, 13H), 5.21 (broad s, 2H), 5.02 (s, 2H), 3.79 (t, J=7 Hz, 2H), 3.60 (s, 2H), 1.65–1.20 (m, 4H), 0.85 (t, J=7 Hz, 3H); LRMS for C28H29FN6O5S (M+H)+ at m/z=581.

reactant | 5,6-diamino-1-butyl-3-(2-fluoro-benzyl)-1H-pyrimidine-2,4-dione | 0.1 mmol, 30.6 mg | NC=1C(N(C(N(C1N)CCCC)=O)CC1=C(C=CC=C1)F)=O | C15H19FN4O2
reactant | [4-(pyridin-2-ylsulfamoyl)-phenyl]-acetic acid | 0.1 mmol, 29.2 mg | N1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)CC(=O)O | C13H12N2O4S
reactant | N,N-diisopropylethylamine | 0.35 mmol, 61 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.1 mmol, 37.9 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | hydrochloric acid | 0.01M | Cl | ClH
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-[4-(pyridin-2-ylsulfamoyl)-phenyl]-acetamide | 86% | C(CCC)N1C(N(C(C(=C1)NC(CC1=CC=C(C=C1)S(NC1=NC=CC=C1)(=O)=O)=O)=O)CC1=C(C=CC=C1)F)=O | C28H28FN5O5S
